US06888027B2
3-{3-[(Benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acrylic acid methyl ester
A solution of 3-(3-chlorosulfonylphenyl)acrylic acid methyl ester (0.4 g, 1.53 mmol) in dioxane (5 ml) was added to a mixture of piperonylamine (0.23 g, 1.52 mmol) in dioxane (1 ml) and NaHCO3 (0.25 g, 3.06 mmol) in water (3 ml), and the resultant solution was stirred at room temperature until the completion of the reaction (control by TLC). The reaction mixture was evaporated and the residue was partitioned between ethyl acetate and 2N HCl. The organic layer was washed successively with water, saturated NaCl, and dried (Na2SO4). The solvent was removed and the residue was chromatographed on silica gel with petroleum ether-ethyl acetate (2:1, v/v) as eluent. The obtained product was washed with diethyl ether to give the title compound (0.47 g, 81%) as a white solid. 1H NMR (DMSO-d6, HMDSO), δ: 3.72 (3H, s); 3.96 (2H, d, J=6.4 Hz); 5.94 (2H, s); 6.66-6.85 (3H, m); 6.71 (1H, d, J=16.4 Hz); 7.49-8.07 (5H, m); 8.14 (1H, br t, J=6.4 Hz).

reactant | 3-(3-chlorosulfonylphenyl)acrylic acid methyl ester | 1.53 mmol, 0.4 g | COC(C=CC1=CC(=CC=C1)S(=O)(=O)Cl)=O | C10H9ClO4S
reactant | piperonylamine | 1.52 mmol, 0.23 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | NaHCO3 | 3.06 mmol, 0.25 g | C(=O)(O)[O-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | 3-{3-[(Benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acrylic acid methyl ester | 0.47 g, 81% | COC(C=CC1=CC(=CC=C1)S(NCC1=CC2=C(OCO2)C=C1)(=O)=O)=O | C18H17NO6S
